US07244842B2
Preparation of 7β-[2-(2-amino-4-thiazolyl)-2-(Z-hydroxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylic acid
A mixture of potassium 7β-[2-(2-amino-4-thiazolyl)-2-(Z-trityloxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylate (25 gm) and activated carbon (2.5 gm) was added to an aqueous acetone solution (1:1, 70 ml) containing p-toluenesulphonic acid (17.7 gm) at 50° C. The reaction mixture was heated to 70° C. in 20 minutes and maintained at this temperature for 35 minutes. After completion of the reaction, chilled ethylacetate (200 ml) having temperature −15° C. was added to the reaction mixture to reduce the temperature to 30–35° C. The carbon was filtered and the carbon bed was washed with water (50 ml). The filtrate was diluted with water (200 ml), warmed to 35° C. and pH of the solution was adjusted to 6.0–6.5 using aqueous ammonia solution (20%). The aqueous layer was separated and treated with carbon (2.0 gm) at 35° C. for 35 min. The carbon was filtered and the carbon bed was washed with water (50 ml). Acetone (25 ml) was added to the filtrate and 10% (w/v) solution of sulphuric acid was added dropwise to bring down the pH from 4.5 to 2.8 at 33–35° C., stirred for 30 minutes and adjusted the pH again to 2.6. The resulting slurry was stirred for 15–20 minutes at 33–35° C., cooled to 20–25° C., and stirred for 30 minutes. The product thus obtained was filtered, washed with water (50 ml) and dried at 35° C. under vacuum for 3–4 hours to get the title compound (9.0 gm, HPLC purity>99%).

reactant | potassium 7β-[2-(2-amino-4-thiazolyl)-2-(Z-trityloxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylate | 25 gm | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=C)C(=O)[O-])C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[K+]
reactant | acetone | 70 ml | CC(=O)C | C3H6O
reactant | p-toluenesulphonic acid | 17.7 gm | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethylacetate | 200 ml | C(C)OC(C)=O | C4H8O2
product | 7β-[2-(2-amino-4-thiazolyl)-2-(Z-hydroxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 9.0 gm | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=N/O | C14H13N5O5S2
